US04971986
(a) Ethyl-3-acetylbenzimidate hydrochloride
A solution of 7.25 g (0.05 mol) of 3-acetylbenzonitrile in 150 ml of ether and 4.5 ml of ethanol is saturated at 0° with dry hydrochloric acid gas and then left to stand at 0° for 2 days. The product which crystallises out is filtered off and recrystallised from ethanol/ether; m.p. 110° (with decomposition).

reactant | 3-acetylbenzonitrile | 0.05 mol, 7.25 g | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | Ethyl-3-acetylbenzimidate hydrochloride | Cl.C(C)OC(C1=CC(=CC=C1)C(C)=O)=N | InChI=1S/C11H13NO2.ClH/c1-3-14-11(12)10-6-4-5-9(7-10)8(2)13;/h4-7,12H,3H2,1-2H3;1H
